US05965562
f) (2R*,4S*)-N-Acetyl-N-[1-(3,5-bis-trifluoromethyl-benzoyl)-2-(4-nitro-benzyl)-piperidin-4-yl]-carbamic acid tert-butyl ester
5.32 g (24.0 mmol) of di-tert-butyl dicarbonate are added in portions to a solution, stirred at 50° C., of 6.9 g (13.34 mmol) of (2R*,4S*)-N-[1-(3,5-bis-trifluoromethyl-benzoyl)-2-(4-nitro-benzyl)-piperidin-4-yl]-acetamide, 1.62 g (13.34 mmol) of 4-N,N-dimethylaminopyridine and 2.02 g (20.0 mmol) of triethylamine in 25 ml of toluene. The reaction mixture is then stirred for 18 hours at 50° C. After cooling, the reaction mixture is diluted with ethyl acetate, washed with dilute hydrochloric acid to pH 3 and then with brine. The organic phase is dried over sodium sulfate, concentrated to dryness by evaporation and chromatographed on silica gel (hexane/ethyl acetate 2:1). The title compound is obtained in the form of a yellow solid. TLC: ethyl acetate/hexane (1:2) Rf =0.40. FD-MS: M+ :617.

reactant | di-tert-butyl dicarbonate | 24.0 mmol, 5.32 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2R*,4S*)-N-[1-(3,5-bis-trifluoromethyl-benzoyl)-2-(4-nitro-benzyl)-piperidin-4-yl]-acetamide | 13.34 mmol, 6.9 g | FC(C=1C=C(C(=O)N2[C@@H](C[C@H](CC2)NC(C)=O)CC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1)C(F)(F)F)(F)F | C23H21F6N3O4
reactant | triethylamine | 20.0 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R*,4S*)-N-Acetyl-N-[1-(3,5-bis-trifluoromethyl-benzoyl)-2-(4-nitro-benzyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N([C@@H]1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CC=C(C=C1)[N+](=O)[O-])C(C)=O)=O | C28H29F6N3O6
